US05719278
7-[(Dimethylamino)methylene]-4,5,6,7-tetrahydro-4-4-nitrobenzyl-8H-thieno[3,2-b]azepin-8-one
A mixture of 3.2 g of 4,5,6,7-tetrahydro-4-(4-nitrobenzoyl)-8H-thieno[3,2-b]azepin-8-one and 32 ml of tert-butoxybis(dimethylamino)methane is heated on a steam bath for 3.5 hours. The reaction mixture is allowed to stand for 48 hours. The reaction mixture is evaporated in vacuo and the concentrate is dissolved in 150 ml of methylene chloride and filtered through hydrous magnesium silicate two times. The volatiles are evaporated in vacuo to a residue which is dissolved in 25 ml of ethyl acetate and filtered. The filtrate is cooled to give 3.2 g of the desired product as a light orange solid, m.p. 214°-216° C.

reactant | 4,5,6,7-tetrahydro-4-(4-nitrobenzoyl)-8H-thieno[3,2-b]azepin-8-one | 3.2 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)=O)SC=C3)C=C1 | C15H12N2O4S
reactant | tert-butoxybis(dimethylamino)methane | 32 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 7-[(Dimethylamino)methylene]-4,5,6,7-tetrahydro-4-4-nitrobenzyl-8H-thieno[3,2-b]azepin-8-one | 3.2 g | CN(C)C=C1C(C2=C(N(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])C=CS2)=O | C18H19N3O3S
